US07767650B2
b. Preparation of 1-[5,5,8,8-Tetramethyl-4-(2-ethoxyethoxy)-5,6,7,8-tetrahydronaphth-2-yl]prop-2-yn-1-ol
40 g (131 mmol) of 5,5,8,8-tetramethyl-4-(2-ethoxyethoxy)-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde are dissolved in 400 mL of THF. 290 mL (145 mmol) of 0.5N ethynylmagnesium bromide solution are added and the reaction medium is then stirred for 1 hour. After treatment with 1N hydrochloric acid solution and extraction with ethyl acetate, followed by evaporation, the residue is purified by chromatography on a column of silica (eluent: 8/2 heptane/EtOAC). A yellow oil is obtained (m=42 g; yield=97%).

reactant | 5,5,8,8-tetramethyl-4-(2-ethoxyethoxy)-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | 131 mmol, 40 g | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C=O)OCCOCC)C | C19H28O3
reactant | ethynylmagnesium bromide | 145 mmol, 0.5N, 290 mL | C(#C)[Mg]Br
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 1-[5,5,8,8-Tetramethyl-4-(2-ethoxyethoxy)-5,6,7,8-tetrahydronaphth-2-yl]prop-2-yn-1-ol | yield=97% | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C(C#C)O)OCCOCC)C | C21H30O3
